US07906502B2
(R or S)-2-Bromo-1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-ethanol
(R)-2-Methyl-CBS-oxazaborolidine (1M in toluene, 1.95 ml, 1.95 mmol) was added to a flask containing 20 ml dry THF under Ar2(g) at 0° C. BH3.SMe2 (2M in THF, 6.0 ml, 12.0 mmol) was added over 5 min. 2-Bromo-1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-ethanone (4.7 g) was dissolved in 30 ml dry THF, added to a dropping funnel and added to the above solution slowly (ca 4 h) at 0° C. The mixture was stirred over night. The reaction was quenched by addition of 0.4 ml MeOH. The mixture was concentrated under reduced pressure, diethyl ether (200 ml) was added and the solution was extracted with 0.5M HCl (pH=1). The aq-phase was extracted with 100 ml diethyl ether and the combined organic phases were washed with ca 2% NaHCO3 followed by brine. The organic phase was dried with MgSO4 and concentrated to yield the title compound.

reactant | (R)-2-Methyl-CBS-oxazaborolidine | 1.95 mmol, 1M, 1.95 ml | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | SMe2 | 12.0 mmol, 2M, 6.0 ml | S(C)C | C2H6S
reactant | 2-Bromo-1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-ethanone | 4.7 g | BrCC(=O)C1=CC2=C(OCCO2)C=C1 | C10H9BrO3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-Bromo-1-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-ethanol | BrCC(O)C1=CC2=C(OCCO2)C=C1 | C10H11BrO3
